US04640922
5-Ethoxycarbonyl-2,6-dimethyl-4-(3-nitrophenyl)dihydropyrimidine
150 mg of 5-ethoxycarbonyl-6-hydroxy-2,6-dimethyl-4-(3-nitrophenyl)-1,4,5,6-tetrahydropyrimidine was dissolved in 14 ml of phosphorus oxychloride and the solution was heated to reflux for 30 minutes. After phsophorus oxychloride was evaporated under reduced pressure, a saturated aqueous potassium carbonate solution was added to the residue and the mixture was extracted with chloroform. After the chloroform layer was dried with anhydrous potassium carbonate, the solvent was evaporated to produce 72 mg of the title compound.

reactant | 5-ethoxycarbonyl-6-hydroxy-2,6-dimethyl-4-(3-nitrophenyl)-1,4,5,6-tetrahydropyrimidine | 150 mg | C(C)OC(=O)C1C(N=C(NC1(C)O)C)C1=CC(=CC=C1)[N+](=O)[O-] | C15H19N3O5
solvent | phosphorus oxychloride | 14 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-Ethoxycarbonyl-2,6-dimethyl-4-(3-nitrophenyl)dihydropyrimidine | 72 mg | C(C)OC(=O)C=1C(=NC(NC1C)C)C1=CC(=CC=C1)[N+](=O)[O-] | C15H17N3O4
